US07923568B2
A solution of (8S,10aR)-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d][1,2,3]triazol-7(8H)-one (6.0 mg, 0.019 mmol) in ethanol (0.5 mL) was cooled to 0° C. and solid sodium borohydride (2.8 mg, 0.075 mmol) was added. After 1 hour, the reaction was quenched by addition of water and was directly loaded onto a reverse phase HPLC column eluting with MeCN/water (10:90 to 90:10). The fraction containing the desired product was concentrated under vacuum and then partitioned between ethyl acetate and pH 7 phosphate buffer. The organic phase was washed with brine and dried over MgSO4. The solution was filtered and evaporated under vacuum and the residue was lyophilized from benzene to give (7R,8R,10aS)-6-(trifluoromethyl)-3,7,8,9,10,11-hexahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d][1,2,3]triazol-7-ol as a white solid.

reactant | (8S,10aR)-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d][1,2,3]triazol-7(8H)-one | 0.019 mmol, 6.0 mg | FC(C=1C([C@H]2CC[C@@]3(C1C=1C=CC4=C(N=NN4)C1C3)C2)=O)(F)F | C16H12F3N3O
reactant | sodium borohydride | 0.075 mmol, 2.8 mg | [BH4-].[Na+]
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | (7R,8R,10aS)-6-(trifluoromethyl)-3,7,8,9,10,11-hexahydro-8,10a-methanocyclohepta[1,2]indeno[4,5-d][1,2,3]triazol-7-ol | FC(C=1[C@@H]([C@@H]2CC[C@]3(C1C=1C=CC4=C(N=NN4)C1C3)C2)O)(F)F | C16H14F3N3O
